US04985419
A solution of propylamine (1.95 cc) in methanol (5 cc) is added dropwise in the course of 5 minutes to a solution, cooled to 0°-5° C., of methyl 10-[(2RS)-1-diethylamino-2-propyl]-2-phenothiazinecarboximidate dihydrochloride (3.49 g) in methanol (21 cc). The mixture is stirred for 2 hours at 5° C. and then concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 50° C. to give a residue which is taken up with distilled water (50 cc). The solution is washed with distilled water (50 cc) alkalinized to pH 9 with N sodium hydroxide. The two phases are allowed to settle and the organic phase is separated and washed with half-saturated (sodium chloride) solution (50 cc), dried over magnesium sulphate, filtered and then concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 50° C. The residue is purified by chromatography on neutral alumina (height: 20 cm; diameter: 2.1 cm), eluting with pure ethyl acetate (375 cc) and finally with mixtures of ethyl acetate and methanol in proportions (by volume) of 99:1 (375 cc), 98:2 (500 cc), 95:5 (500 cc), 90:10 (500 cc) and 80:20 (500 cc) and collecting 25-cc fractions. Fractions 40 to 70 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 50° C. to give 10-[(2RS)-1-diethylamino-2-propyl]-N-propyl-2-phenothiazinecarboxamidine (1.49 g) in the form of a yellow product of meringue-like consistency.

reactant | propylamine | 1.95 cc | C(CC)N | C3H9N
reactant | methyl 10-[(2RS)-1-diethylamino-2-propyl]-2-phenothiazinecarboximidate dihydrochloride | 3.49 g | Cl.Cl.C(C)N(CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(OC)=N)CC
reactant | water | 50 cc | O | H2O
solvent | methanol | 5 cc | CO | CH4O
solvent | methanol | 21 cc | CO | CH4O
product | 10-[(2RS)-1-diethylamino-2-propyl]-N-propyl-2-phenothiazinecarboxamidine | 1.49 g | C(C)N(CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(=N)NCCC)CC | C23H32N4S
